US08877934B2
Step C: (E)-4,4,5,5,5-Pentafluoro-N-[2-[[2-(2-methyl-1,3-dioxolan-2-yl)-4-pyridyl]amino]-ethyl]pent-2-enamide
(E)-4,4,5,5,5-Pentafluoropent-2-enoic acid (133 mg, 0.7 mmol) and HBTU (265 mg, 0.7 mmol) were dissolved in a 2:1 mixture of anhydrous DMF and anhydrous THF (3 ml) and stirred at room temperature for 15 minutes. N-[2-(2-Methyl-1,3-dioxolan-2-yl)-4-pyridyl]ethane-1,2-diamine (100 mg, 0.45 mmol) was added and stirring was continued for 3 hours. The reaction mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 47 mg (0.12 mmol, 26%).

reactant | (E)-4,4,5,5,5-Pentafluoropent-2-enoic acid | 0.7 mmol, 133 mg | FC(/C=C/C(=O)O)(C(F)(F)F)F | C5H3F5O2
reactant | HBTU | 0.7 mmol, 265 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-[2-(2-Methyl-1,3-dioxolan-2-yl)-4-pyridyl]ethane-1,2-diamine | 0.45 mmol, 100 mg | CC1(OCCO1)C1=NC=CC(=C1)NCCN | C11H17N3O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4,4,5,5,5-Pentafluoro-N-[2-[[2-(2-methyl-1,3-dioxolan-2-yl)-4-pyridyl]amino]-ethyl]pent-2-enamide | FC(/C=C/C(=O)NCCNC1=CC(=NC=C1)C1(OCCO1)C)(C(F)(F)F)F | C16H18F5N3O3
